US08802688B2
Step 2. methyl 3-(methylcarbamoyl)-1H-indazole-5-carboxylate
To a solution of 5-bromo-N-methyl-1H-indazole-3-carboxamide (710 mg, 2.8 mmol) in anhydrous methanol (20 mL) was added 1,1′-bis(diphenylphosphino)ferrocene-palladium (II) dichloride dichloromethane complex (400 mg, 0.56 mmol) and N-methylmorpholine (565 mg, 5.60 mmol). The reaction vessel was evacuated and back filled with nitrogen three times. The vessel was then filled with 30 psi carbon monoxide. The reaction mixture was heated to 70° C., increasing the pressure within the vessel to 45 psi. The reaction was agitated at 70° C. for 24 hours. The reaction mixture was cooled to room temperature and was filtered through Celite, rinsing with methanol. The filtrate was concentrated and purification by flash column chromatography gave the title compound (410 mg, 61%) as a brown solid. 1H NMR (400 MHz, DMSO-d6, δ): 13.9 (s, 1 H), 8.88 (s, 1 H), 8.49 (d, J=4.8, 1 H), 7.95-7.98 (m, 1 H), 7.68-7.70 (m, 1 H), 3.88 (s, 3 H), 2.82 (d, J=4.8 Hz, 3 H).

reactant | 5-bromo-N-methyl-1H-indazole-3-carboxamide | 2.8 mmol, 710 mg | BrC=1C=C2C(=NNC2=CC1)C(=O)NC | C9H8BrN3O
reactant | N-methylmorpholine | 5.60 mmol, 565 mg | CN1CCOCC1 | C5H11NO
reactant | methanol | 20 mL | CO | CH4O
product | methyl 3-(methylcarbamoyl)-1H-indazole-5-carboxylate | 410 mg, 61% | CNC(=O)C1=NNC2=CC=C(C=C12)C(=O)OC | C11H11N3O3
